US08633200B2
A solution of (S)-ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (3.08 g, 7.81 mmol) in CH2Cl2 (130 ml) was treated with tert-butyl acetate (73.9 ml, 547 mmol) and perchloric acid (2.014 ml, 23.44 mmol), and the reaction was stoppered. The reaction was stirred for 2.5 hrs, then diluted with CH2Cl2 (130 ml) and carefully quenched with sat. NaHCO3 (100 mL). The organic layer was separated and washed with brine (100 mL), dried (Na2SO4), filtered and concentrated to give a light amber mobile oil. The crude product was purified by flash silica gel column chromatography, eluting with 10%-30% EtOAc in hexanes, to afford the product, (S)-ethyl 2-(tert-butoxy)-2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (2.05 g, 4.42 mmol, 56.5% yield) as a viscous oil, which began to crystallize upon standing. 1H NMR (500 MHz, CDCl3) δ: 7.87 (t, J=1.5 Hz, 1H), 7.74 (dt, J=7.3, 1.5 Hz, 1H), 7.46-7.36 (m, 2H), 5.63 (s, 1H), 4.19 (q, J=7.0 Hz, 2H), 2.68 (s, 3H), 2.51 (s, 3H), 1.26 (s, 9H), 1.21 (t, J=7.0 Hz, 3H).

reactant | (S)-ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 7.81 mmol, 3.08 g | ClC1=C(C(=NC=2N1N=C(C2C)C2=CC(=CC=C2)Cl)C)[C@@H](C(=O)OCC)O | C18H17Cl2N3O3
reactant | tert-butyl acetate | 547 mmol, 73.9 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | perchloric acid | 23.44 mmol, 2.014 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | CH2Cl2 | 130 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 130 ml | C(Cl)Cl | CH2Cl2
product | (S)-ethyl 2-(tert-butoxy)-2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 4.42 mmol, 2.05 g, 56.5% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1Cl)N=C(C2C)C2=CC(=CC=C2)Cl)C | C22H25Cl2N3O3
